US06723722B1
4-[(6-Chloro-2-naphthyl)sulfonyl]-6-hydroxymethyl-1-[methyl[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinone Hydrochloride
A solution of methyl 4-[(6-chloro-2-naphthyl)sulfonyl)-1-[methyl[1-(4-pyridinyl)-4-piperidinyl]amino]-6-oxo-2-piperazinecarboxylate hydrochloride (0.3 g) in methanol (20 ml) was treated with 3 portions of lithium borohydride (1.14 g) with stirring at 0° C. After completion of the reaction, the reaction system was adjusted at pH 4 with a 10% hydrochloric acid/methanol solution, and then concentrated under reduced pressure. The residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate, and the organic phase was dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified on a CHP-20 column (water→1% 1N hydrochloric acid-containing 30% aqueous solution of acetonitrile) to obtain the title compound (0.12 g) as a colorless powder.

reactant | methyl 4-[(6-chloro-2-naphthyl)sulfonyl)-1-[methyl[1-(4-pyridinyl)-4-piperidinyl]amino]-6-oxo-2-piperazinecarboxylate hydrochloride | 0.3 g | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(C(C1)=O)N(C1CCN(CC1)C1=CC=NC=C1)C)C(=O)OC
reactant | lithium borohydride | 1.14 g | [BH4-].[Li+]
reactant | hydrochloric acid methanol | Cl.CO
solvent | methanol | 20 ml | CO | CH4O
product | 4-[(6-Chloro-2-naphthyl)sulfonyl]-6-hydroxymethyl-1-[methyl[1-(4-pyridinyl)-4-piperidinyl]amino]-2-piperazinone Hydrochloride | 0.12 g | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(C(C1)CO)N(C1CCN(CC1)C1=CC=NC=C1)C)=O | InChI=1S/C26H30ClN5O4S.ClH/c1-29(22-8-12-30(13-9-22)23-6-10-28-11-7-23)32-24(18-33)16-31(17-26(32)34)37(35,36)25-5-3-19-14-21(27)4-2-20(19)15-25;/h2-7,10-11,14-15,22,24,33H,8-9,12-13,16-18H2,1H3;1H
